US07189851B2
A. 4-[(9aS)-3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4yl]benzoic acid
tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate (14.0 g, 49.1 mmol, 1 equiv), ethyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate (11.0 g, 49.1 mmol, 1 equiv), 4-carboxybenzaldehyde (7.37 g, 49.1 mmol, 1 equiv), and piperidine (2.43 mL, 24.5 mmol, 0.5 equiv) were combined in toluene (50 mL). After 2 h at 90° C., the reaction was cooled to ambient tempand concentrated. The residue was redissolved in 70 mL of CH3CN and 70 mL of H2O and then CAN (63.8 g, 98.3 mmol, 2 equiv) was added. After 0.5 h the reaction mixture was extracted with EtOAc (2×100 mL) and the combined organic portions were concentrated to a brown oil. The crude oil was then treated with TFA (50 mL). After 1 h, the mixture was concentrated to a brown oil. A CH2Cl2 solution (100 mL) of this crude oil was treated with Et3N (10 mL). After 8 h, the mixture was concentrated to a brown foam. The residue was redissolved in EtOAc and washed 1× NaHCO3, 1× H2O. The organics were then dried (Na2SO4), filtered and concentrated. Chromatography on silica gel using 90% EtOAc/ 10% MeOH eluted the product. Upon concentration the material was isolated as a white solid: 1H NMR (CDCl3, 400 MHz) δ 8.07 (d, J=8.3 Hz, 2H), 7.43 (d, J=8.0 Hz, 2H), 7.24 (dd, J=8.4, 2.9 Hz, 2H), 6.94 (t, J=8.6 Hz, 2H), 4.75 (dd, J=10.5, 6.5 Hz, 1H), 4.31 (dd, J=28.7, 14.4 Hz, 2H), 3.84 (dd, J=14.3, 7.2 Hz, 2H), 3.76–3.69 (m, 1H), 3.40–3.35 (m, 1H), 2.53–2.48 (m, 1H), 2.34–2.26 (m, 2H), 1.44–1.39 (m, 1H), 0.74 (t, J=7.2 Hz, 3H).

reactant | tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 49.1 mmol, 14.0 g, 1 equiv | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | ethyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate | 49.1 mmol, 11.0 g, 1 equiv | N\C(=C/C(=O)OCC)\CC1=CC=C(C=C1)F | C12H14FNO2
reactant | 4-carboxybenzaldehyde | 49.1 mmol, 7.37 g, 1 equiv | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | piperidine | 24.5 mmol, 2.43 mL, 0.5 equiv | N1CCCCC1 | C5H11N
reactant | CAN | 98.3 mmol, 63.8 g, 2 equiv | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 70 mL | O | H2O
product | 4-[(9aS)-3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4yl]benzoic acid | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CC1=CC=C(C=C1)F)C1=CC=C(C(=O)O)C=C1 | C27H23FN2O5
